US06320050B1
A mechanical stirrer was used for this reaction. A solution of diisopropylamine (29.2 mL, 0.21 mol) in dry tetrahydrofuran (186 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (62 mL) was cooled to −78° C. and then treated with a 2.5 M solution of n-butyllithium in hexanes (83.4 mL, 0.21 mol). The yellow-orange reaction mixture was stirred at −78° C. for 35 min and then slowly treated with a solution of 4-(methanesulfonyl)phenyl acetic acid methyl ester (45.35 g, 0.20 mol) in dry tetrahydrofuran (186 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (62 mL). The reaction mixture turned dark in color. The reaction mixture was then stirred at −78° C. for 50 min, at which time, a solution of iodomethylcyclopentane (50.08 g, 0.24 mol) in a small amount of dry tetrahydrofuran was added slowly. The reaction mixture was then stirred at −78° C. for 50 min, and then allowed to warm to 25° C., where it was stirred for 36 h. The reaction mixture was quenched with water (100 mL), and the resulting reaction mixture was concentrated in vacuo to remove tetrahydrofuran. The remaining residue was diluted with ethyl acetate (1.5 L). The organic phase was washed with a saturated aqueous sodium chloride solution (1×500 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 3/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid methyl ester (41.79 g, 68%) as a yellow viscous oil: EI-HRMS m/e calcd for C16H22O4S (M+) 310.1239, found 310.1230.

reactant | diisopropylamine | 0.21 mol, 29.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-(methanesulfonyl)phenyl acetic acid methyl ester | 0.20 mol, 45.35 g | COC(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C10H12O4S
reactant | iodomethylcyclopentane | 0.24 mol, 50.08 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 186 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 62 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 186 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 62 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid methyl ester | 41.79 g, 68% | COC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S
